US04419361
244.6 g (0.88 mol) of crude 1-(2,4-dichloro-phenoxy)-3,3-dimethyl-4-fluoro-2-butanone were dissolved in 700 ml of chloroform, and 46 ml of bromine were added dropwise at 30° C. at a rate such that decolorization continuously occurred. When the addition had ended, the mixture was subsequently stirred for 30 minutes and then concentrated by distilling off the chloroform in vacuo. 315 g (100% of theory) of 1-bromo-1-(2,4-dichlorophenoxy)-3,3-dimethyl-4-fluoro-2-butanone were obtained as a viscous oil which could be further reacted in crude form.

reactant | 1-(2,4-dichloro-phenoxy)-3,3-dimethyl-4-fluoro-2-butanone | 0.88 mol, 244.6 g | ClC1=C(OCC(C(CF)(C)C)=O)C=CC(=C1)Cl | C12H13Cl2FO2
reactant | bromine | 46 ml | BrBr | Br2
solvent | chloroform | 700 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-bromo-1-(2,4-dichlorophenoxy)-3,3-dimethyl-4-fluoro-2-butanone | 315 g, 100% | BrC(C(C(CF)(C)C)=O)OC1=C(C=C(C=C1)Cl)Cl | C12H12BrCl2FO2
